* source PLETHYSMOGRAPH AMP
V_V2         SENSOR 0  AC 1
+SIN 0 0.1 4 0 0 0
V_V1         VCC 0 9Vdc
X_U2         N04219 N06271 VCC/2 0 OUT LM293/5_1/TI
R_R4         OUT VCC/2  10k TC=0,0 
C_C1         0 OUT  15pF  TC=0,0 
C_C2         0 VCC  100nF  TC=0,0 
X_U3A         N03027 VCC/2 VCC 0 VCC/2 TL074/301/TI
X_U3B         N03428 N03375 VCC 0 N03382 TL074/301/TI
X_U3C         N04183 N04267 VCC 0 N04219 TL074/301/TI
R_R5         N03027 VCC  100k TC=0,0 
R_R6         0 N03027  100k TC=0,0 
C_C3         SENSOR N03337  2.2uF  TC=0,0 
R_R7         N03375 N03337  10k TC=0,0 
R_R8         N03382 N03375  100k TC=0,0 
R_R9         VCC/2 N03428  10k TC=0,0 
R_R11         N04267 N04263  10k TC=0,0 
C_C4         N042350 N04263  2.2uF  TC=0,0 
R_R10         VCC/2 N04183  10k TC=0,0 
R_R12         N04219 N04267  100k TC=0,0 
C_C5         0 N03027  100nF  TC=0,0 
R_R13         N03337 VCC/2  47k TC=0,0 
R_R14         N04263 VCC/2  47k TC=0,0 
X_R15         VCC/2 N042350 N03382 POT PARAMS: SET=0 VALUE=10K
R_R16         N06271 N04219  1.6meg TC=0,0 
C_C6         0 N06271  0.1uF  TC=0,0 
