* source PLETHYSMOGRAPH AMP
V_V1         VCC 0 9Vdc
X_U2         N04263 N06271 VCC 0 OUT LM293/5_1/TI
R_R4         OUT VCC/2  1k TC=0,0 
C_C1         0 OUT  15pF  TC=0,0 
C_C2         0 VCC  100nF  TC=0,0 
X_U3A         N03027 VCC/2 VCC 0 VCC/2 TL074/301/TI
X_U3B         N03428 N03375 VCC 0 N03382 TL074/301/TI
R_R5         N03027 VCC  100k TC=0,0 
R_R6         0 N03027  100k TC=0,0 
C_C3         SENSOR N03337  2.2uF  TC=0,0 
R_R7         N03375 N03337  10k TC=0,0 
R_R8         N03382 N03375  100k TC=0,0 
R_R9         VCC/2 N03428  10k TC=0,0 
C_C5         0 N03027  100nF  TC=0,0 
R_R13         N03337 VCC/2  47k TC=0,0 
X_R15         VCC/2 N04263 N03382 POT PARAMS: SET=0.5 VALUE=10K
R_R16         N06271 N04263  1.6meg TC=0,0 
C_C6         0 N06271  0.1uF  TC=0,0 
V_V2         SENSOR 0   PWL   
+ REPEAT FOREVER  
+ FILE "C:\Users\N\Documents\GitHub\Plethysmograph\TEK0003formatted_crop.csv" 
+ ENDREPEAT
